US07557213B2
Experimental conditions analogous to those described for Step 1 of Example 1 were used with 1 g (3.78 mmol) of 3-ethoxy-2-(4-methoxy-3-methyl-benzoyl)-acrylic acid methyl ester, 0.214 g (3.78 mmol) of aniline, and 20 mL of diphenyl ether to yield 1.12 g of 3-(4-Methoxy-3-methyl-benzoyl)-1H-quinolin-4-one.

reactant | 3-ethoxy-2-(4-methoxy-3-methyl-benzoyl)-acrylic acid methyl ester | 3.78 mmol, 1 g | COC(C(=COCC)C(C1=CC(=C(C=C1)OC)C)=O)=O | C15H18O5
reactant | aniline | 3.78 mmol, 0.214 g | NC1=CC=CC=C1 | C6H7N
solvent | diphenyl ether | 20 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-(4-Methoxy-3-methyl-benzoyl)-1H-quinolin-4-one | 1.12 g | COC1=C(C=C(C(=O)C2=CNC3=CC=CC=C3C2=O)C=C1)C | C18H15NO3
